US05068390
Preparation of 2-(p-chlorophenyl)-4,5-bis(trifluoromethyl)pyrrole-3-carbonitrile
4-(p-Chlorophenyl)-2-(trifluoromethyl)-2-oxazolin-5-one (2.0 g, 7.59 mmol) and 2-bromo-4,4,4-trifluorocrotononitrile (0.81 g, 4.05 mmol) are dissolved in acetonitrile (10 mL). To the resulting yellow solution triethylamine (0.45 g, 4.46 mmol) is added dropwise while the reaction flask is cooled with a water bath. After stirring at 25° C. overnight, the reaction mixture is poured into water. The aqueous layer is extracted with ethyl acetate and the combined organic extracts are washed sequentially with water, 5% sodium thiosulfate solution and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give a yellow solid. The solid is chromatographed using silica gel and eluted with hexane/ethyl acetate 3:1 to yield the title compound as yellow crystals (1.26 g, mp 208° C.)

reactant | 4-(p-Chlorophenyl)-2-(trifluoromethyl)-2-oxazolin-5-one | 7.59 mmol, 2.0 g | ClC1=CC=C(C=C1)C1N=C(OC1=O)C(F)(F)F | C10H5ClF3NO2
reactant | 2-bromo-4,4,4-trifluorocrotononitrile | 4.05 mmol, 0.81 g | Br/C(/C#N)=C\C(F)(F)F | C4HBrF3N
reactant | triethylamine | 4.46 mmol, 0.45 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(p-chlorophenyl)-4,5-bis(trifluoromethyl)pyrrole-3-carbonitrile | 1.26 g | ClC1=CC=C(C=C1)C=1NC(=C(C1C#N)C(F)(F)F)C(F)(F)F | C13H5ClF6N2
